US08865623B2
To a mixed solution of toluene (2250 ml) and distilled water (250 ml) at 0° C. is added finely ground potassium phosphate tribasic (699.23 g, 3.29 mol) portionwise over 10 minutes. This mixture is then allowed to warm to room temperature, followed by the addition of 2,5-dibromobenzaldehyde (235.0 g, 890 mmol) and cyclopropylboronic acid (68.92 g, 801 mmol). After stirring at room temperature for 50 minutes under a blanket of nitrogen tetrakis(triphenylphosphine)palladium (102.89 g, 89 mmol) is added over 10 minutes, washing residual solid with toluene (50 ml). The reaction mixture is then stirred at 80° C. for 22 hours, followed by cooling to room temperature and addition of distilled water (500 ml). The mixture is filtered through a pad of silica (washing with additional ethyl acetate) and the aqueous phase is extracted with ethyl acetate (2×300 ml). The combined organic extracts are washed with brine (500 ml), dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue is purified by chromatography on silica gel (iso-hexane/ethyl acetate as eluant) followed by distillation under reduced pressure to afford 5-bromo-2-cyclopropylbenzaldehyde as a yellow oil.

reactant | potassium phosphate tribasic | 3.29 mol, 699.23 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2,5-dibromobenzaldehyde | 890 mmol, 235.0 g | BrC1=C(C=O)C=C(C=C1)Br | C7H4Br2O
reactant | cyclopropylboronic acid | 801 mmol, 68.92 g | C1(CC1)B(O)O | C3H7BO2
catalyst | nitrogen tetrakis(triphenylphosphine)palladium | 89 mmol, 102.89 g | N#N.C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-2-cyclopropylbenzaldehyde | BrC=1C=CC(=C(C=O)C1)C1CC1 | C10H9BrO
